### PR TITLE
[Merged by Bors] - feat: adjoints of nonzero root space elements are nilpotent endomorphisms in Lie algebras

### PR DESCRIPTION
**Pull request by jano-wol**
The adjoints of nonzero root space elements are nilpotent endomorphisms in Lie algebras.
---
This PR proves that the adjoints of nonzero root space elements are nilpotent endomorphisms in Lie algebras satisfying the following conditions:
- The base field has characteristic zero.
- The Lie algebra (with nilpotent subalgebra H) is triangularizable.
- The Lie algebra has finite dimension.

This work is part of the framework:
https://github.com/orgs/leanprover-community/projects/17

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 1]
```diff
@@ -364,4 +365,53 @@ lemma chainTop_isNonZero (α β : Weight R L M) (hα : α.IsNonZero) :
...
 
+section
+
+open LieAlgebra
+open Submodule
+
+variable {K L M : Type*} [Field K] [CharZero K] [LieRing L] [LieAlgebra K L]
+  (H : LieSubalgebra K L) [LieRing.IsNilpotent H]
+  [AddCommGroup M] [Module K M] [LieRingModule L M] [LieModule K L M]
+  [IsTriangularizable K H M] [FiniteDimensional K M]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:376]: I think we might as well exit the `LieModule` namespace since we're about to add two parallel lemmas, in different namespaces which are naturally grouped together by their coefficients being a field.

Also `L` and `M` already exist at this point so you're introducing shadowing duplicates (Lean should really warn you about this). We should therefore only add `K` and the typeclasses which involve it.

I therefore suggest:
```suggestion
end LieModule

section Field

open LieAlgebra LieModule Submodule

variable {K : Type*} [Field K] [CharZero K] [LieAlgebra K L]
  (H : LieSubalgebra K L) [LieRing.IsNilpotent H]
  [Module K M] [LieModule K L M]
  [IsTriangularizable K H M] [FiniteDimensional K M]
```

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 2]
```diff
@@ -364,4 +365,53 @@ lemma chainTop_isNonZero (α β : Weight R L M) (hα : α.IsNonZero) :
...
+
+lemma root_space_ad_is_nilpotent
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:378]:
```suggestion
lemma LieModule.isNilpotent_toEnd_of_mem_rootSpace
```

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 3]
```diff
@@ -364,4 +365,53 @@ lemma chainTop_isNonZero (α β : Weight R L M) (hα : α.IsNonZero) :
...
+    {x : L} {χ : H → K} (hχ : χ ≠ 0) (hx : x ∈ rootSpace H χ) :
+    _root_.IsNilpotent (toEnd K L M x) := by
+  refine Module.Finite.Module.End.isNilpotent_iff_of_finite.mpr fun m ↦ ?_
+  have hm : m ∈ ⨆ χ : LieModule.Weight K H M, genWeightSpace M χ := by
+    simp [iSup_genWeightSpace_eq_top' K H M]
+  induction hm using LieSubmodule.iSup_induction' with
+  | h0 =>
+      obtain ⟨n, -, hn⟩ := exists_genWeightSpace_smul_add_eq_bot (M := M) χ χ hχ
+      use 0
+      apply map_zero
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:388]:
```suggestion
  | h0 => exact ⟨0, map_zero _⟩
```

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 4]
```diff
@@ -364,4 +365,53 @@ lemma chainTop_isNonZero (α β : Weight R L M) (hα : α.IsNonZero) :
...
+    obtain ⟨n, -, hn⟩ := exists_genWeightSpace_smul_add_eq_bot (M := M) χ χ₂ hχ
+    use n
+    have := toEnd_pow_apply_mem hx hm₂ n
+    rwa [hn, LieSubmodule.mem_bot] at this
+  | hadd m₁ m₂ hm₁ hm₂ hm₁' hm₂' =>
+    obtain ⟨n₁, hn₁⟩ := hm₁'
+    obtain ⟨n₂, hn₂⟩ := hm₂'
+    refine ⟨max n₁ n₂, ?_⟩
+    rw [map_add, LinearMap.pow_map_zero_of_le le_sup_left hn₁,
+    LinearMap.pow_map_zero_of_le le_sup_right hn₂, add_zero]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:399]:
```suggestion
      LinearMap.pow_map_zero_of_le le_sup_right hn₂, add_zero]
```

File: Mathlib/Algebra/Lie/Weights/Chain.lean [hunk 5]
```diff
@@ -364,4 +365,53 @@ lemma chainTop_isNonZero (α β : Weight R L M) (hα : α.IsNonZero) :
...
+
+variable {K L : Type*} [Field K] [CharZero K] [LieRing L] [LieAlgebra K L]
+  (H : LieSubalgebra K L) [LieRing.IsNilpotent H]
+
+lemma root_space_ad_is_nilpotent' [IsTriangularizable K H L] [FiniteDimensional K L]
+    {x : L} {χ : H → K} (hχ : χ ≠ 0) (hx : x ∈ rootSpace H χ) :
+    _root_.IsNilpotent (ad K L x) :=
+  LieModule.root_space_ad_is_nilpotent (M := L) H hχ hx
+
+end LieAlgebra
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/Chain.lean:417]:
```suggestion

lemma LieAlgebra.isNilpotent_ad_of_mem_rootSpace
    [IsTriangularizable K H L] [FiniteDimensional K L]
    {x : L} {χ : H → K} (hχ : χ ≠ 0) (hx : x ∈ rootSpace H χ) :
    _root_.IsNilpotent (ad K L x) :=
  isNilpotent_toEnd_of_mem_rootSpace (M := L) H hχ hx

end Field
```

**Review by ocfnash — COMMENTED** [review]
Looks very nice now. Just a few nitpicks bit probably ready to go after these.

File: Mathlib/Algebra/Lie/Weights/Chain.lean (hunk 5 above)
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Weights/Chain.lean]: Fixed.

**Review by ocfnash — APPROVED** [review]
Thanks for this: a very useful result, especially in combination with your previous PRs.

Two final nitpicks but otherwise LGTM.

bors d+
